US07338958B2
p) Production of (RS)-S-{4-[(5-bromo-4-hydroxypyrimidin-2-yl)amino]phenyl}-S-methyl sulfoximide
324 mg of (RS)-5-bromo-2-[4-(methylsulfinyl)phenylamino]pyrimidin-4-ol and 128 mg of sodium azide are suspended in 6 ml of methylene chloride and mixed drop by drop with 0.3 ml of concentrated sulfuric acid while being cooled with ice. The mixture is stirred for 36 hours at 40° C. The organic phase is decanted off, and the residue is stirred with ice water. The solid is suctioned off, washed twice with water and once with ethanol and dried. 266 mg (78.2% of theory) of the product with a melting point of 230° C. (decomposition) is obtained.

reactant | (RS)-5-bromo-2-[4-(methylsulfinyl)phenylamino]pyrimidin-4-ol | 324 mg | BrC=1C(=NC(=NC1)NC1=CC=C(C=C1)S(=O)C)O | C11H10BrN3O2S
reactant | sodium azide | 128 mg | [N-]=[N+]=[N-].[Na+]
reactant | sulfuric acid | 0.3 ml | S(O)(O)(=O)=O | H2O4S
solvent | methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
product | (RS)-S-{4-[(5-bromo-4-hydroxypyrimidin-2-yl)amino]phenyl}-S-methyl sulfoximide | BrC=1C(=NC(=NC1)NC1=CC=C(C=C1)S(=O)(=N)C)O | C11H11BrN4O2S
